US09056859B2
Step B: (1-oxo-3,4-dihydro-1H-isochromen-6-yl)acetaldehyde
6-(1,3-Dioxolan-2-ylmethyl)-3,4-dihydro-1H-isochromen-1-one (4.42 g, 18.9 mmol) was dissolved in dioxane (25 mL) and treated with 3 M HCl (40 mL). The reaction mixture was stirred at room temperature over night, then was warmed to 50° C. for 2 h to drive the reaction to completion (however this led to increased side product production based on LCMS). Ethyl acetate was added and the layers were separated. The aqueous layer was extracted again with ethyl acetate, and the combined organic layers were washed with brine and dried over MgSO4 to afford the title compound.

reactant | 6-(1,3-Dioxolan-2-ylmethyl)-3,4-dihydro-1H-isochromen-1-one | 18.9 mmol, 4.42 g | O1C(OCC1)CC=1C=C2CCOC(C2=CC1)=O | C13H14O4
reactant | HCl | 3 M, 40 mL | Cl | ClH
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | (1-oxo-3,4-dihydro-1H-isochromen-6-yl)acetaldehyde | O=C1OCCC2=CC(=CC=C12)CC=O | C11H10O3
